US06140316
Synthesis of Estra-1,3,5(10 ),6-tetraen-3-ol (17)
Estra-1,3,5(10),6-tetraen-3-ol-17-one (91.1 mg, 0.339 mmol), hydrazine (54 μL, 1.7 mmol), and potassium hydroxide (0.06 g) in 1.8 mL of diethylene glycol were heated in a 200° C. bath under argon for 2 h. After cooling to RT 10 mL of water were added and the solution was acidified to pH≈2 with IN HCl. The resulting suspension was extracted three times with 10 mL of ether and the combined organic extracts were washed with 10 mL of brine, dried over magnesium sulfate, filtered through Celite, and concentrated under reduced pressure. The crude solid was purified by preparative TLC (25% ethyl acetate/hexane on silica gel) to give product homogeneous to TLC (5.9 mg, 23 μmol, 7%).

reactant | Estra-1,3,5(10),6-tetraen-3-ol-17-one | 0.339 mmol, 91.1 mg | C[C@@]12C(CC[C@H]1[C@@H]1C=CC=3C=C(C=CC3[C@H]1CC2)O)=O | C18H20O2
reactant | hydrazine | 1.7 mmol, 54 μL | NN | H4N2
reactant | potassium hydroxide | 0.06 g | [OH-].[K+]
reactant | water | 10 mL | O | H2O
solvent | diethylene glycol | 1.8 mL | C(COCCO)O | C4H10O3
solvent | HCl | Cl | ClH
product | Estra-1,3,5(10 ),6-tetraen-3-ol | C[C@@]12CCC[C@H]1[C@@H]1C=CC=3C=C(C=CC3[C@H]1CC2)O | C18H22O
